US07906517B2
2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-ol (300 mg) is dissolved in tetrahydrofuran (2 mL), and thereto are added 2-(methylthio)ethanol (162 μl) and triphenylphosphine (488 mg), and thereto is added dropwise a 40% diethyl azodicarboxylate/toluene solution (424 μl) under water-cooling, and the mixture is stirred at 50° C. overnight. Further thereto are added 2-(methylthio)ethanol (243 μl) and triphenylphosphine (244 mg), and thereto is added dropwise diisopropyl azodicarboxylate (361 μl) under water-cooling, and the mixture is stirred at 60° C. for 2 hours. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=99:1→9:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[5-(2-methylsulfanyl-ethoxy)-pyrimidin-2-yl]-amine (300 mg). MS (m/z): 718 [M+H]+

reactant | 2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-ol | 300 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C31H26F9N3O2
reactant | 2-(methylthio)ethanol | 162 μl | CSCCO | C3H8OS
reactant | triphenylphosphine | 488 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 424 μl | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
reactant | 2-(methylthio)ethanol | 243 μl | CSCCO | C3H8OS
reactant | triphenylphosphine | 244 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 361 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[5-(2-methylsulfanyl-ethoxy)-pyrimidin-2-yl]-amine | 300 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCSC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C34H32F9N3O2S
